US06395718B1
2-({[(Phenylcarbonylamino)methyl](hydroxyphosphinyl)}methyl)pentanedioic acid (8)
To a solution of di-tert-butyl 2-({(tert-butoxy)-[(phenylcarbonylamino)methyl]phosphoryl}methyl)pentane-1,5-dioate (1.230 g, 2.4 mmol) in dichloromethane (10 ML) was added trifluoroacetic acid (5 mL) at room temperature, and the mixture was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure. The residual oil was taken up with dichloromethane (10 mL) and concentrated. This process was repeated three times to remove trifluoroacetic acid completely. The resulting oil was crystallized from acetonitrile-water to give 0.620 g of white solid (75% yield).

reactant | di-tert-butyl 2-({(tert-butoxy)-[(phenylcarbonylamino)methyl]phosphoryl}methyl)pentane-1,5-dioate | 2.4 mmol, 1.230 g | C(C)(C)(C)OP(=O)(CNC(=O)C1=CC=CC=C1)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C26H42NO7P
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-({[(Phenylcarbonylamino)methyl](hydroxyphosphinyl)}methyl)pentanedioic acid | 0.620 g, 75% yield | C1(=CC=CC=C1)C(=O)NCP(=O)(O)CC(C(=O)O)CCC(=O)O | C14H18NO7P
